US05498774
Synthesis of α-(imidazo[1,2-a]pyridin-5-ylcarbonylamino)-(2-furyl)acetonitrile (Compound No.2-134)
α-(2-Furyl)-α-aminoacetonitrile (0.7 g, 5.5 m moles) was dissolved in acetonitrile (20 ml), and imidazo[1,2-a]pyridine-5-carboxylic acid chloride (1.0 g, 5.5 m moles) was added thereto and reacted at room temperature for 2 hours. After completion of the reaction, the solvent was removed from the reaction mixture. To the residue were added water (20 ml), saturated aqueous solution of sodium bicarbonate (50 ml) and chloroform (50 ml), and the mixture was stirred. The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by column chromatography on silica gel (eluent: methanol/chloroform=1/9) to give the object compound (0.9 g, yield 64%) as amorphous solid.

reactant | α-(2-Furyl)-α-aminoacetonitrile | 0.7 g | O1C(=CC=C1)C(C#N)N | C6H6N2O
reactant | imidazo[1,2-a]pyridine-5-carboxylic acid chloride | 1.0 g | N=1C=CN2C1C=CC=C2C(=O)Cl | C8H5ClN2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | α-(imidazo[1,2-a]pyridin-5-ylcarbonylamino)-(2-furyl)acetonitrile | 0.9 g, yield 64% | N=1C=CN2C1C=CC=C2C(=O)NC(C#N)C=2OC=CC2 | C14H10N4O2
